US06110962
11-(4-Hydroxy-phenyl)-benzo[b]naphtho[2,3-d]thiophen-3-ol
Boron tribromide (5 mL, 52.9 mmol) was added slowly to a stirrred solution of (2-benzyl-6-methoxy-benzo[b]thiophen-3-yl)-(4-methoxy-phenyl)-methanone (2.30 g, 5.92 mmol) in dichloromethane (30 mL) at -78° C. under a dry nitrogen atomosphere. The solution was allowed to warm to ambient temperature and was stirred for 4 h. The reaction mixture was quenched with water and partitioned between water and ether. Silica gel was added to the ether phase and the solvent was removed, The adsorbate was flash chromatographed (eluent 7:3 pet. ether:ethyl acetate) to provide the title compound as a white solid (2.08 g, 96%): mp: 197-199° C.; NMR (CDCl3); δ 8.28 (s, 1H), 7.92 (d, J=8 Hz, 1H), 7.59 (dm, J=8 Hz, 1H), 7.50 (ddd, J=8, 7, 1 Hz, 1H), 7.39-7.25 (m, 5H), 7.21 (d, J=2 Hz, 1H), 7.11 (d, J=9 Hz, 2H), 6.69 (d, J=9 Hz, 1H), 6.57 (dd, J=9, 2 Hz, 1H), 5.03 (s, 1H), 4.94 (s, 1H); MS (FAB+): 343 (15%, M+H); Anal. Calc. for C22H14O2S: C, 77.17, H, 4.12, N, 0:00. Found: C, 76.74, H, 4.04, N, 0.02.

reactant | Boron tribromide | 52.9 mmol, 5 mL | B(Br)(Br)Br | BBr3
reactant | (2-benzyl-6-methoxy-benzo[b]thiophen-3-yl)-(4-methoxy-phenyl)-methanone | 5.92 mmol, 2.30 g | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC=C(C=C2)OC | C24H20O3S
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 11-(4-Hydroxy-phenyl)-benzo[b]naphtho[2,3-d]thiophen-3-ol | 2.08 g, 96% | OC1=CC=C(C=C1)C1=C2C=CC=CC2=CC2=C1C1=C(S2)C=C(C=C1)O | C22H14O2S
